US07462630B2
Synthesis of t-butyl 2-({2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}amino)-2-oxoethylcarbamate
35.0 mg (0.095 mmol) of 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride, 19.7 mg (0.114 mmol) of N-t-butoxycarbonylglycine, 27.2 mg (0.142 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride and 1 mg (0.01 mmol) of 4-dimethylaminopyridine were dissolved in 1 ml of dichloromethane. 19.2 mg (0.190 mmol) of triethylamine was added to the obtained solution, and they were stirred for 1 hour. The product was purified by the silica gel chromatography (hexane:ethyl acetate=7:3 to 3:7) to obtain the title compound.

reactant | 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride | 0.095 mmol, 35.0 mg | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CN)=O
reactant | N-t-butoxycarbonylglycine | 0.114 mmol, 19.7 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.142 mmol, 27.2 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.190 mmol, 19.2 mg | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.01 mmol, 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | t-butyl 2-({2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}amino)-2-oxoethylcarbamate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(CNC(OC(C)(C)C)=O)=O)=O | C29H33N3O4
